US06384028B1
tert-butyldimethylsilyl chloride (1.42 g) was added to a mixture of 4(S)-ethynyl-2-azetidinone (0.78 g) in dichloromethane (10 ml) and ethyldiisopropylamine (2.14 ml) at room temperature. The reaction mixture was stirred overnight, then evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with n-hexane-ethyl acetate (9:1) to give 1-tert-butyldimethylsilyl-4(S)-ethynyl-2-azetidinone (1.4 g) as a colorless oil.

reactant | tert-butyldimethylsilyl chloride | 1.42 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4(S)-ethynyl-2-azetidinone | 0.78 g | C(#C)[C@@H]1CC(N1)=O | C5H5NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyldiisopropylamine | 2.14 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | 1-tert-butyldimethylsilyl-4(S)-ethynyl-2-azetidinone | 1.4 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C#C)=O | C11H19NOSi
